US04734415
4,5-Dihydro-6-[4-(1H-pyrrol-1-yl)phenyl]-3(2H)-pyridazinone
A mixture of 6-(4-aminophenyl)-3(2H)-pyridazinone (3.7 g) and 2,5-dimethoxytetrahydrofuran (2.6 g) in glacial acetic acid (37 ml) is heated under reflux for four hours. The reaction mixture is cooled, filtered and the solid is washed with ethanol, and finally crystallized from methanol to give 1.2 g of the product, 4,5-dihydro-6-[4-(1H)-pyrrol-1-yl)phenyl]-3(2H)-pyridazinone, mp 222°-223° C.

reactant | 6-(4-aminophenyl)-3(2H)-pyridazinone | 3.7 g | NC1=CC=C(C=C1)C=1C=CC(NN1)=O | C10H9N3O
reactant | 2,5-dimethoxytetrahydrofuran | 2.6 g | COC1OC(CC1)OC | C6H12O3
solvent | acetic acid | 37 ml | C(C)(=O)O | C2H4O2
product | 4,5-Dihydro-6-[4-(1H-pyrrol-1-yl)phenyl]-3(2H)-pyridazinone | 1.2 g | N1(C=CC=C1)C1=CC=C(C=C1)C=1CCC(NN1)=O | C14H13N3O
